US06576656B1
(1) Morpholinocarbonyl-1-butyne
A mixture of 4-pentynoic acid (210 mg, 2.14 mmol), morpholine hydrochloride (265 mg, 2.14 mmol), 1-hydroxybenzotriazol (338 mg, 2.50 mmol), WSC HCl (484 mg, 2.52 mmol), and triethylamine (0.37 ml, 2.65 mmol) in DMF (7 mL) was stirred for 1 h at room temperature. Water was added. The mixture was extracted with ethyl acetate-toluene, and the extracts were washed with water, dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography with 1:1 to 1:5 hexane/ethyl acetate to give the title compound (325 mg, 91%).

reactant | 4-pentynoic acid | 2.14 mmol, 210 mg | C(CCC#C)(=O)O | C5H6O2
reactant | morpholine hydrochloride | 2.14 mmol, 265 mg | Cl.N1CCOCC1
reactant | 1-hydroxybenzotriazol | 2.50 mmol, 338 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | WSC HCl | 2.52 mmol, 484 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 2.65 mmol, 0.37 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | Morpholinocarbonyl-1-butyne | 325 mg, 91% | O1CCN(CC1)C(=O)C#CCC | C9H13NO2
